US08957105B2
Under a nitrogen atmosphere, lithium hexamethyldisilazide (2.4 mL, 2.4 mmol) was mixed with THF (5 mL). The reaction was cooled to −78° C. 1,4-cyclohexane-dione monoethylene acetal (374 mg, 2.4 mmol), dissolved in THF (2 mL) was slowly added via dropping funnel. The reaction was stirred for 20 min at −78° C. It was then cannulated to a flask, cooled at −78° C., containing benzothiazole-6-carbonyl chloride (498 mg, 2.52 mmol) dissolved in THF (5 mL). After the addition, the reaction was stirred at −78° C. for 1 hr, and then allowed to warm to room temperature. After 12 h, water (30 mL) was added and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with 10% citric acid (20 mL), water (20 mL), bicarb (20 mL), and brine (20 mL). It was then dried over Na2SO4, filtered and concentrated in vacuo. The crude material was purified by silica gel column (1:1 EtOAc/Hexanes) to yield 7-(Benzothiazole-6-carbonyl)-1,4-dioxa-spiro[4.5]decan-8-one (271 mg, 35%, light yellow solid).

reactant | lithium hexamethyldisilazide | 2.4 mmol, 2.4 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 1,4-cyclohexane-dione monoethylene acetal | 2.4 mmol, 374 mg | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | benzothiazole-6-carbonyl chloride | 2.52 mmol, 498 mg | S1C=NC2=C1C=C(C=C2)C(=O)Cl | C8H4ClNOS
reactant | water | 30 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-(Benzothiazole-6-carbonyl)-1,4-dioxa-spiro[4.5]decan-8-one | 271 mg, 35% | S1C=NC2=C1C=C(C=C2)C(=O)C2CC1(OCCO1)CCC2=O | C16H15NO4S
